Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Flagyl / Codeine / Penicillins / Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
transient right sided facial droop
 
Major Surgical or Invasive Procedure:
none

 
Past Medical History:
PMH: 
HTN
ITP s/p splenectomy in ___ (rec'd pneumovax)
Migraines with visual aura - daily for the past ___ years.
Consist of throbbing headaches preceeded by a visual ___ of
flashing lights. A/w nausea, P/P, worsened with cough/sneeze,
made better with motrin/sleep. Occasionally a/w L-sided numbness
h/o anxiety/panic attacks (no hospitalizations)

 
Social History:
___
Family History:
FH: +migraines in ___, mother. Father and brother with ___. No
h/o stroke or autoimmune disease

 
Physical Exam:
Admission Exam:

Vitals: T97.5 HR 69 BP121/73 RR16 Spo2100% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented ___. Able to
relate history without difficulty. Attentive, able to name ___
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Able to name
both high frequency objects. not sure of cactus in ___ and
feather. Able to read without difficulty. No dysarthria. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. no ptosis
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric. eye closure
good. eyebrow raise symmetric. face activates symmetrically, no
asymmetry at rest

VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     5    5   5    5 

occasional fine head tremor more in horizontal plane

-Sensory: No deficits to light touch, pinprick, temperature,
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     3      2
R 2      2      2     3      2

Plantar response was flexor bilaterally. 
suprapatellar bilaterally

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. can stand on one leg without issue.

Discharge Exam:

24 HR Data (last updated ___ @ 719)
    Temp: 97.8 (Tm 98.7), BP: 129/79 (115-129/70-79), HR: 55
(55-60), RR: 20 (___), O2 sat: 99% (97-99), O2 delivery: RA  

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to place and date. Able to 
relate
history without difficulty. Attentive, able to name ___.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. No dysarthria.
Able to follow both midline and appendicular commands. There was
no evidence of apraxia or neglect. 

-Cranial Nerves:
II, III, IV, VI: EOMI without nystagmus. Normal saccades. VFF to
confrontation. no ptosis
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric. face
activates symmetrically, no asymmetry at rest

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     5    5   5    5 

-Sensory: No deficits to light touch

-Reflexes: deferred

-Coordination:  No dysmetria on FNF 

-Gait: did not walk

 
Pertinent Results:
___ 10:56AM   VIT B12-576
___ 10:56AM   ___ PTT-30.8 ___
___ 10:56AM   LUPUS-NEG dRVVT-S-0.97 SCT-S-0.88
___ 05:15AM   GLUCOSE-104* UREA N-14 CREAT-0.7 SODIUM-147 
POTASSIUM-3.8 CHLORIDE-108 TOTAL CO2-26 ANION GAP-13
___ 05:15AM   ALT(SGPT)-12 AST(SGOT)-14 LD(LDH)-149 ALK 
PHOS-69 TOT BILI-0.2
___ 05:15AM   ALBUMIN-4.1 CALCIUM-8.8 PHOSPHATE-4.3 
MAGNESIUM-2.0 CHOLEST-153
___ 05:15AM   %HbA1c-5.3 eAG-105
___ 05:15AM   TRIGLYCER-98 HDL CHOL-58 CHOL/HDL-2.6 
LDL(CALC)-75
___ 05:15AM   TSH-3.2
___ 05:15AM   WBC-9.5 RBC-3.40* HGB-10.9* HCT-34.0 MCV-100* 
MCH-32.1* MCHC-32.1 RDW-14.6 RDWSD-54.0*
___ 06:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

CT head:
1. Focal hypodensity in the posterior right parietal lobe near 
the right 
MCA/PCA watershed area corresponds with location of previously 
demonstrated acute infarction on the MRI from ___, and most 
likely represents component of encephalomalacia.  However, acute 
on chronic ischemia would be difficult to exclude in this 
setting.  Additional areas of chronic ischemic change correspond 
with findings on previous imaging from ___. 
2. No acute intracranial hemorrhage, mass effect or skull 
fracture. 

MRI:
1. No intracranial hemorrhage edema, mass effect or new infarct. 
Bilateral 
unchanged areas of encephalomalacia, compatible with old 
infarcts. 
2. 2 mm outpouching  arising from the anterior right MCA M1 
segment, likely an infundibulum. 

 
Brief Hospital Course:
___ F w/ PMH stroke, ITP s/p splenectomy, HTN, migraines w/ 
visual
aura presents with transient R facial droop. Symptoms had 
completely resolved by the time she presented to the ED. Given 
risk factors and past history and likely TIA, was admitted for 
TIA work up. MRI showed an old infarct but no new infarct. TTE 
done and showed no cardiac abnormality or evident source of 
thrombus. Ziopatch placed for home monitoring. No abnormalities 
on telemetry while inpatient. She will go home on aspirin 325mg 
and pravastatin 80mg with plan to follow up in stroke clinic.

Transitional Issues:
- follow up with stroke clinic
- ziopatch placed while inpatient and will need to be returned 
in two weeks. f/u results after

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =75 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Pravastatin 80 mg PO QPM 
3. Verapamil SR 240 mg PO BID 
4. Aspirin 325 mg PO DAILY 
5. Ascorbic Acid ___ mg PO DAILY 
6. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Aspirin 325 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4.  Pravastatin 80 mg PO QPM  
5.  Verapamil SR 240 mg PO BID  
6.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of facial droop resulting 
from a TRANSIENT ISCHMIC ATTACK, a condition where a blood 
vessel providing oxygen and nutrients to the brain and the brain 
temporarily does not have sufficient oxygen. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

Strokes/TIAs can have many different causes, so we assessed you 
for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
 - high blood pressure
 - migraines with aura
 - ITP
 - past stroke

We are continuing your medications as follows:  
 -  aspirin 325mg 
 -  pravastatin 80mg 

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___